US07078405B2
A 5N aqueous sodium hydroxide solution (0.603 mL, 3.0 mmol) was added to a solution of methyl 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylate (373 mg, 1.20 mmol) in ethanol (15 mL), and the mixture was heated under reflux for 1 hour. 5N hydrochloric acid (0.603 mL) was added thereto under ice-cooling and the solvent was evaporated, to give 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylic acid as a crude compound.

reactant | sodium hydroxide | 3.0 mmol, 5N, 0.603 mL | [OH-].[Na+]
reactant | methyl 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylate | 1.20 mmol, 373 mg | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)C(=O)OC | C18H19N3O2
reactant | hydrochloric acid | 5N, 0.603 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 8-(2,4-dimethylphenyl)-2-ethylimidazo[1,2-b]pyridazine-3-carboxylic acid | CC1=C(C=CC(=C1)C)C=1C=2N(N=CC1)C(=C(N2)CC)C(=O)O | C17H17N3O2
